US09376429B2
10 mg (1.0 eq) of the obtained tert-butyl 4-(4-(5-(4-(N-(tert-butoxycarbonyl)-N-(thiazol-4-yl)sulfamoyl)-2-chloro-5-fluorophenoxy)-2-(3-fluorophenyl)pyridin-4-yl)pyrimidin-2-yl)piperazin-1-carboxylate was dissolved in 0.2 oL dimethylchloride, and 0.2 mL of trifluoroacetic acid was added thereto. The mixture was reacted at room temperature for 2 hours. The solvent was removed by concentrating under reduced pressure. The residue was separated by PLC (developing solvent, dimethylchloride:methanol=15:1) to obtain 2.0 mg of 5-chloro-2-fluoro-4-((6-(3-fluorophenyl)-4-(2-(piperazin-1-yl)pyrimidin-4-yl)pyridin-3-yl)oxy)-N-(thiazol-4-yl)benzenesulfonamide.

reactant | tert-butyl 4-(4-(5-(4-(N-(tert-butoxycarbonyl)-N-(thiazol-4-yl)sulfamoyl)-2-chloro-5-fluorophenoxy)-2-(3-fluorophenyl)pyridin-4-yl)pyrimidin-2-yl)piperazin-1-carboxylate | 10 mg, 1.0 eq | C(C)(C)(C)OC(=O)N(S(=O)(=O)C1=CC(=C(OC=2C(=CC(=NC2)C2=CC(=CC=C2)F)C2=NC(=NC=C2)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1F)Cl)C=1N=CSC1 | C38H38ClF2N7O7S2
solvent | trifluoroacetic acid | 0.2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-chloro-2-fluoro-4-((6-(3-fluorophenyl)-4-(2-(piperazin-1-yl)pyrimidin-4-yl)pyridin-3-yl)oxy)-N-(thiazol-4-yl)benzenesulfonamide | 2.0 mg | ClC=1C(=CC(=C(C1)S(=O)(=O)NC=1N=CSC1)F)OC=1C=NC(=CC1C1=NC(=NC=C1)N1CCNCC1)C1=CC(=CC=C1)F | C28H22ClF2N7O3S2
